US05180735
2-(1,2-Epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxy-4oxocyclohexanol (1.07 g) and ammonium acetate (1.86 g) were dissolved in methanol (25 ml). To the solution was added sodium cyanoborohydride (304 mg), and the mixture was stirred for one hour. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethyl acetate (100 ml). The solution was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by means of a silica gel column chromatography (carrier 40 g, developing solvent: chloroform-methanol-NH4OH=20:1:0.1) to obtain 4-amino-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxycyclohexanol (629 mg; yield 58%) as a colorless oily product.

reactant | 2-(1,2-Epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxy-4oxocyclohexanol | 1.07 g | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)=O)(O)CSCC1=C(C=CC=C1)CO | C24H34O5S
reactant | ammonium acetate | 1.86 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 304 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 4-amino-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxycyclohexanol | 629 mg, yield 58% | NC1C(C(C(CC1)(O)CSCC1=C(C=CC=C1)CO)C1(C(CC=C(C)C)O1)C)OC | C24H37NO4S
